US07126026B2
a) 4-Aminophenylsulfur pentafluoride
A solution of tin(II) chloride (1465 g., 7.73 mol) in concentrated (32 percent) aqueous HCl solution was heated with stirring to 80° C. and then, with ice cooling, 4-nitrophenylsulfur pentafluoride (584 g., 2.344 mol) was introduced in 8 portions over the course of 1 h. The internal temperature was kept below 100° C. during this. Subsequently, the mixture was stirred at an internal temperature of 85° C. for 1.5 h and then cooled to 45° C. over the course of a further hour. A mixture of ice (12 kg), NaOH (2 kg) and dichloromethane (1.5 l) was prepared and added to the reaction mixture with vigorous stirring. The phases were separated, the aqueous phase was extracted 3 times with 1 l of dichloromethane each time, and the combined organic phases were dried over Na2SO4 and evaporated in vacuo 510 g 25 (99%) of 4-aminophenylsulfur pentafluoride were obtained as a pale yellow crystalline powder, m.p. 63–65° C. (Bowden, R. D., Comina, P. J., Greenhall, M. P., Kariuki, B. M., Loveday, A., Philip, D. Tetrahedron 2000, 56, 3399: 57–59° C.).

reactant | tin(II) chloride | 7.73 mol, 1465 g | [Sn](Cl)Cl
reactant | HCl | Cl | ClH
reactant | 4-nitrophenylsulfur pentafluoride | 2.344 mol, 584 g | [N+](=O)([O-])C1=CC=C(C=C1)S(F)(F)(F)(F)F | C6H4F5NO2S
reactant | NaOH | 2 kg | [OH-].[Na+]
solvent | dichloromethane | 1.5 l | ClCCl | CH2Cl2
product | 4-Aminophenylsulfur pentafluoride | NC1=CC=C(C=C1)S(F)(F)(F)(F)F | C6H6F5NS
